US09447044B2
Step A: 2-(4-benzyloxy-3-chloro-phenyl)-cyclopropane carboxylic acid
(R)-4-Benzyl-3-[2-(4-benzyloxy-3-chloro-phenyl)-cyclopropanecarbonyl]-oxazolidin-2-on (132 mg, 0.28 mmol) was reacted in the same manner as in Step A of Preparation Example 59 to obtain the mixture (85 mg) of the title compound and 4-benzyloxazolidin-2-on.

reactant | (R)-4-Benzyl-3-[2-(4-benzyloxy-3-chloro-phenyl)-cyclopropanecarbonyl]-oxazolidin-2-on | 0.28 mmol, 132 mg | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(=O)C1C(C1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)Cl | C27H24ClNO4
reactant | 4-benzyloxazolidin-2-on | C(C1=CC=CC=C1)C1NC(OC1)=O | C10H11NO2
product | 2-(4-benzyloxy-3-chloro-phenyl)-cyclopropane carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1C(C1)C(=O)O)Cl | C17H15ClO3
